US06743794B2
N-{[3-(9-Chloro-3-methyl-4oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclohexylcarbamoyl]-methyl}-nicotinamide
5-(3-Amino-cyclohexyl)-9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin4-one hydroiodide (70 mg, 0.19 mmol) was combined with EDC (47 mg, 0.25 mmol), 1-hydroxy-7-azabenzo-triazole (34 mg, 0.25 mmol), N,N-diisopropylethyl amine (0.10 mL, 0.58 mmol), (5 mg, cat.), and nicotinuric acid (44 mg, 0.24 mmol) in DMF(6 mL) and the mixture stirred overnight at rt. The mixture was then concentrated in vacuo and the residue taken up in water and extracted with EtOAc. The combined extracts were dried over Na2SO4 and concentrated in vacuo. The residue was loaded onto a silica gel column and eluted with MeOH/CH2Cl2 which allowed for the recovery of 87 mg (92%) of the title compound as a white solid.

reactant | 5-(3-Amino-cyclohexyl)-9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin4-one hydroiodide | 0.19 mmol, 70 mg | I.NC1CC(CCC1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O
reactant | EDC | 0.25 mmol, 47 mg
reactant | 1-hydroxy-7-azabenzo-triazole | 0.25 mmol, 34 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N,N-diisopropylethyl amine | 0.58 mmol, 0.10 mL, 5 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | nicotinuric acid | 0.24 mmol, 44 mg | C1=CC(=CN=C1)C(=O)NCC(=O)O | C8H8N2O3
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | N-{[3-(9-Chloro-3-methyl-4oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclohexylcarbamoyl]-methyl}-nicotinamide | ClC=1C=2C=3C(C(N(C2C=CC1)C1CC(CCC1)NC(=O)CNC(C1=CN=CC=C1)=O)=O)=C(ON3)C | C25H24ClN5O4
